US08461328B2
4-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (15.6 g, 46.2 mmol), 4-amino-1-Boc-piperidine (10.18 g, 50.8 mmol), diisopropylethylamine (20.9 ml, 120 mmol) in propan-2-ol (200 ml) was heated at 80° C. for 11 h. The mixture was then cooled to 25° C. and was concentrated under reduced pressure. The yellow-orange residue was partitioned between water (150 ml) and CH2Cl2 (2×200 ml). The combined organic layers were dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure to afford crude 4-(1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (26.4 g, 114%) as a yellow-orange foam. A portion of this material (11.2 g) was used in the next step below. The remaining material was purified by column chromatography on silica gel (gradient: 0 to 70% EtOAc in heptanes) to give the title compound (13.49 g) as a yellow solid. LCMS (Method G, ESI): RT=1.24 min, m+H=502.3; 1H NMR (400 MHz, CDCl3) δ 9.10 (s, 1H), 9.08 (s, 1H), 8.19 (d, J=8.0 Hz, 2H), 7.63 (dd, J=8.1, 5.9 Hz, 2H), 7.52 (t, J=7.8 Hz, 2H), 6.70 (d, J=4.2 Hz, 1H), 4.22-4.07 (m, 1H), 4.01 (d, J=13.3 Hz, 2H), 3.12 (t, J=11.3 Hz, 2H), 2.17-2.04 (m, 2H), 1.69-1.58 (m, 2H), 1.47 (s, 9H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 46.2 mmol, 15.6 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | 4-amino-1-Boc-piperidine | 50.8 mmol, 10.18 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | diisopropylethylamine | 120 mmol, 20.9 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | propan-2-ol | 200 ml | CC(C)O | C3H8O
product | 4-(1-Benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 13.49 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2C(=NC=C1[N+](=O)[O-])N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C23H27N5O6S
